US05475106
Using a procedure similar to that described in Example 1, but starting with tert-butyl 2-[2-amino-N-(3-trifluoromethoxyphenyl)acetamido]acetate (3.4 g) and 3-methylphenyl isocyanate (1.4 g), and after recrystallisation in diisopropyl ether, tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-(3-trifluoromethoxyphenyl)acetamido}acetate (1.75 g), m.p. 125° C., is obtained.

reactant | tert-butyl 2-[2-amino-N-(3-trifluoromethoxyphenyl)acetamido]acetate | 3.4 g | NCC(=O)N(C1=CC(=CC=C1)OC(F)(F)F)CC(=O)OC(C)(C)C | C15H19F3N2O4
reactant | 3-methylphenyl isocyanate | 1.4 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | tert-butyl 2-{2-[3-(3-methylphenyl)ureido]-N-(3-trifluoromethoxyphenyl)acetamido}acetate | 1.75 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC(=CC=C1)OC(F)(F)F)CC(=O)OC(C)(C)C)=O | C23H26F3N3O5
